US06579872B1
N-[5-(3-methanesulphonylaminobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide
Methanesulphonyl chloride (0.25 g) was added to a stirred mixture of N-[5-(3-aminobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide (0.84 g), pyridine (0.5 ml) and methylene chloride (25 ml) and the mixture was stirred at ambient temperature for 48 hours. The mixture was washed with 2N hydrochloric acid and with water, dried (MgSO4) and evaporated. The residue was triturated under diethyl ether and the resultant white solid was dried under vacuum at 60° C. There was thus obtained the title compound (0.85 g), m.p.>300° C.; NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 3.03 (s, 3H), 3.82 (s, 6H), 7.06 (d, 1H), 7.23 (d, 1H), 7.4 (br d, 1H), 7.47 (t, 1H), 7.55 (br m, 2H), 7.63 (m, 1H), 7.66 (br d, 1H), 7.72 (d, 1H), 7.78 (d, 1H), 9.73 (br s, 1H), 9.91 (br s, 1H), 10.24 (br s, 1H); Mass Spectrum: M−H− 482.

reactant | Methanesulphonyl chloride | 0.25 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[5-(3-aminobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide | 0.84 g | NC=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=CC1 | C23H23N3O4
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3-methanesulphonylaminobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide | 0.85 g | CS(=O)(=O)NC=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=CC1 | C24H25N3O6S
